* C:\Users\ericj\OneDrive\Documents\GitHub\EE-352-Project\LT SPICE\oscillator_block.asc
R1 N001 N002 40k
R2 N002 out 80k
C_1 N004 P001 1µ
R_1 P001 out 40k
R_2 N004 0 40k
C_2 N004 0 1µ
D1 N001 V+ D
D2 V- N001 D
V1 N001 0 PWL(0 0 1m 1m 2m 0)
R3_2 V+ N003 1k
R4_2 N003 out 1k
R4_1 out N005 1k
R3_1 N005 V- 1k
V2 V+ 0 12
V3 V- 0 -12
X§U1 N004 N002 V+ V- out OP27
.model D D
.lib C:\Users\ericj\AppData\Local\LTspice\lib\cmp\standard.dio
* votlage source is only needed \nto start the circuit in spice, \nnot needed on breadboard
.tran 0 1 2m 100u
.lib ADI.lib
.backanno
.end
